US04621901
A mixture of 28.2 g of 1,1-ethylenedioxy-4-(methoxymethylene)cyclohexane, 770 ml of glacial acetic acid and 385 ml of water was heated to reflux for 1 hour in a round flask while gassing with nitrogen. Thereafter, the yellowish clear solution was cooled to room temperature, diluted with 800 ml of water and extracted three times with 700 ml of methylene chloride each time. The organic phases were washed twice with 500 ml of 10% (wt./vol.) sodium carbonate solution each time, dried over sodium sulphate, filtered and concentrated. Chromatographic separation of the brownish liquid obtained (18.5 g) on silica gel with methylene chloride as the eluent finally gave 16.7 g of 4-formylcyclohexanone as a brownish liquid.

reactant | 1,1-ethylenedioxy-4-(methoxymethylene)cyclohexane | 28.2 g | C1OC2(CCC(CC2)=COC)OC1 | C10H16O3
reactant | acetic acid | 770 ml | C(C)(=O)O | C2H4O2
solvent | water | 800 ml | O | H2O
solvent | water | 385 ml | O | H2O
product | 4-formylcyclohexanone | 16.7 g | C(=O)C1CCC(CC1)=O | C7H10O2
